US08877975B2
(1-(3-chloro-4-fluorophenyl)cyclohexyl)-methanamine (32)
The title compound was prepared from 1-(3-chloro-4-fluorophenyl)cyclohexanecarbonitrile. A solution of the crude product in MTBE was basicified at 0° C. with KOH, extracted with MTBE and evaporated. The residue was diluted in DCM, filtered through an aminopropyl column and evaporated to give the primary amine (64.1 mg, 25%) as an oil. LCMS Rt=7.62 min, m/z=242 (M+1). 1H NMR (CDCl3, δ) 7.34 (dd, J=2.4, 7.1 Hz, 1H), 7.19 (ddd, J=2.4, 4.6, 8.7 Hz, 1H), 7.11 (t, J=8.7 Hz, 1H), 2.68 (s, 2H), 2.1 (m, 2H), 1.6-1.2 (m, 8H), 0.79 (bs, 2H). 13C NMR (CDCl3, δ, mult): 157.4(0), 154.9(0), 142.2(0), 129.5(0), 127.0(0), 126.9(1), 120.8(1), 120.6(1), 116.3(1), 116.1(1), 54.5(2), 43.3(0), 33.7(2), 26.5(2), 22.0(2).

reactant | 1-(3-chloro-4-fluorophenyl)cyclohexanecarbonitrile | ClC=1C=C(C=CC1F)C1(CCCCC1)C#N | C13H13ClFN
reactant | KOH | [OH-].[K+]
solvent | MTBE | CC(C)(C)OC | C5H12O
product | (1-(3-chloro-4-fluorophenyl)cyclohexyl)-methanamine | ClC=1C=C(C=CC1F)C1(CCCCC1)CN | C13H17ClFN
